US07700634B2
Lithium aluminum hydride (1M solution in diethyl ether; 5.8 ml, 5.8 mmol) was added dropwise to a mixture of 2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-4-methyl-oxazole-5-carboxylic acid ethyl ester and 1-cyclohexylmethyl-7-methoxy-3-(4-methyl-oxazol-2-yl)-1H-indole (1171 mg) dissolved in tetrahydrofuran (20 ml) under ice-methanol cooling. The resulting mixture was stirred for 20 minutes at 0° C., then diluted with diethyl ether (40 ml). Excess sodium sulfate decahydrate was added and the resulting mixture was stirred at room temperature for 18 h. The mixture was filtered through a pad of dicalite, washing with diethyl ether (100 ml) and the filtrate concentrated in vacuo. The residue was purified by flash column chromatography eluting with 50% (v/v) ethyl acetate in n-heptane to afford [2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)4-methyl-oxazol-5-yl]-methanol as a white solid (774 mg). Methane sulfonyl chloride (281 mg, 2.45 mmol) was added dropwise to a solution of [2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-4-methyl-oxazol-5-yl]-methanol (724 mg, 2.04 mmol) dissolved in dichloromethane (40 ml) at −78° C. under nitrogen. Triethylamine (269 mg, 2.66 mmol) was added dropwise and the mixture allowed to warm to room temperature with stirring for 2 h. The mixture was then diluted with dichloromethane (100 ml), washed with saturated sodium carbonate solution (2×100 ml) and brine (100 ml). The organic extracts were dried over magnesium sulfate then concentrated in vacuo. A mixture of the resulting residue (100 mg, 0.23 mmol), diethylamine (169 mg, 2.30 mmol) and tetrahydrofuran (2 ml) was subjected to microwave irradiation at 150° C. for 15 minutes. The resulting mixture was concentrated in vacuo and purified by flash column chromatography, eluting with 2% ammonia in methanol/dichloromethane in 1:49 ratio, to afford a brown gum. The gum was dissolved in dichloromethane (0.5 ml), then hydrogen chloride (1M solution in diethyl ether; 0.5 ml) was added and the mixture concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt (32 mg). 1H NMR (400 MHz, CD3OD) δ 0.85-1.38 (6H, m), 1.46 (6H, t, J 7.5), 1.55-1.78 (4H, m), 1.88 (1H, m), 2.39 (3H, s), 3.34 (4H, q, J 7.6), 3.98 (3H, s), 4.34 (2H, d, J 6.9), 4.65 (2H, s), 6.88 (1H, d, J 8.2), 7.23 (1H, t, J 8.0), 7.74 (1H, d, J 8.0), 8.00 (1H, s).

reactant | Lithium aluminum hydride | 5.8 mmol, 1M, 5.8 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-4-methyl-oxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(O1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1)C | C23H28N2O4
reactant | 1-cyclohexylmethyl-7-methoxy-3-(4-methyl-oxazol-2-yl)-1H-indole | 1171 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1OC=C(N1)C | C20H24N2O2
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | [2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)4-methyl-oxazol-5-yl]-methanol | 774 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1OC(=C(N1)C)CO | C21H26N2O3
